US08703810B2
A mixture of 1-(2-chloroethyl)pyrrolidine (1.19 g, 8.83 mmol), 4-hydroxybenzaldehyde (1.02 g, 8.33 mmol), and potassium carbonate (2.30 g, 16.7 mmol) in DMF (5 mL) was heated at 60° C. overnight. The reaction mixture was diluted with H2O and extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed (50 mL brine), dried over Na2SO4, and concentrated. The crude material was purified on a silica gel column to yield 4-(2-(pyrrolidin-1-yl)ethoxy)benzaldehyde (996 mg, 53%). 1H NMR (CDCl3): δ 9.90 (s, 1H), 7.85 (d, 2H), 7.03 (d, 2H), 4.22 (t, 2H), 2.96 (t, 2H), 2.69 (m, 4H), 1.82 (m, 4H).

reactant | 1-(2-chloroethyl)pyrrolidine | 8.83 mmol, 1.19 g | ClCCN1CCCC1 | C6H12ClN
reactant | 4-hydroxybenzaldehyde | 8.33 mmol, 1.02 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 16.7 mmol, 2.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 4-(2-(pyrrolidin-1-yl)ethoxy)benzaldehyde | 996 mg, 53% | N1(CCCC1)CCOC1=CC=C(C=O)C=C1 | C13H17NO2
